US04295848
Preparation of N-(β-hydroxyethyl)-N-(β-mesylaminoethyl)-para-phenylenediamine dihydrochloride monohydrate
0.0178 mol (5.6 g) of 4-acetylamino-N-(β-hydroxyethyl)-N-(β-mesylaminoethyl)-aniline in 12 ml of a 5 N aqueous solution of hydrochloric acid is heated for 30 minutes in a boiling water bath. The water is then driven off in vacuo. After keeping the residue for two hours in vacuo at 60° C., a crystalline product, which is chromatographically pure, is obtained.

reactant | 4-acetylamino-N-(β-hydroxyethyl)-N-(β-mesylaminoethyl)-aniline | 0.0178 mol, 5.6 g | C(C)(=O)NC1=CC=C(N(CCNS(=O)(=O)C)CCO)C=C1 | C13H21N3O4S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | N-(β-hydroxyethyl)-N-(β-mesylaminoethyl)-para-phenylenediamine dihydrochloride monohydrate | O.Cl.Cl.OCCN(C1=CC=C(C=C1)N)CCNS(=O)(=O)C | InChI=1S/C11H19N3O3S.2ClH.H2O/c1-18(16,17)13-6-7-14(8-9-15)11-4-2-10(12)3-5-11;;;/h2-5,13,15H,6-9,12H2,1H3;2*1H;1H2
